US06995263B2
e] (6-{2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester
In analogy to the procedure described in example 5 f], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 6 b]) was reacted with 2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol in the presence of di-tert-butyl azodicarboxylate and triphenylphosphine in tetrahydrofuran to yield the title compound as colorless liquid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | C1(CC1)C1=NC(=NC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (6-{2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C28H26F3N3O3
